US09029374B2
To a solution of methyl 8-acetyl-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate (1.15 g, 3.33 mmol) in MeOH (20 mL)/DCM (10 mL) was added sodium tetrahydroborate (0.139 g, 3.66 mmol) at −10° C. The reaction mixture was quenched with water (50 mL) 15 min later. The volatiles were removed and the aqueous layer was extracted twice with DCM. Combined organics phases were washed with brine, dried over magnesium sulfate and concentrated. The residue was triturated with MTBE/DCM (9/1) and collected by filtration to give methyl 8-(1-hydroxyethyl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate (1.0 g, 86%) as a grey solid, which was used in the next step without further purification. Mass Spectrum: M+H+ 348.

reactant | methyl 8-acetyl-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate | 3.33 mmol, 1.15 g | C(C)(=O)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)OC | C18H19NO6
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
reactant | sodium tetrahydroborate | 3.66 mmol, 0.139 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | methyl 8-(1-hydroxyethyl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate | 1.0 g, 86% | OC(C)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)OC | C18H21NO6
